US04013716
Preparation of N-(3-trifluormethylphenyl)-N-(N,N-dimethyl-carbamoyl)-N',N'-dimethylformamidinium chloride
A mixture of 25.05 g (0.1 mol) of N-(3-trifluormethyl-phenyl-N,N-dimethyl-1-chloroformamidine and 20 g (0.3 mol) of dimethylformamide is stirred in the same way as described in Example 6.

reactant | 3-trifluormethyl-phenyl-N,N-dimethyl-1-chloroformamidine | FC(C=1C=C(C=CC1)N=C(N(C)C)Cl)(F)F | C10H10ClF3N2
reactant | dimethylformamide | 0.3 mol, 20 g | CN(C=O)C | C3H7NO
product | N-(3-trifluormethylphenyl)-N-(N,N-dimethyl-carbamoyl)-N',N'-dimethylformamidinium chloride | [Cl-].FC(C=1C=C(C=CC1)N(C=[N+](C)C)C(N(C)C)=O)(F)F | InChI=1S/C13H17F3N3O.ClH/c1-17(2)9-19(12(20)18(3)4)11-7-5-6-10(8-11)13(14,15)16;/h5-9H,1-4H3;1H/q+1;/p-1
